US08791119B2
To a suspension of 5.50 g (13.2 mmol) of 2-tert-butyl 8-methyl 6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate in 60 ml of a mixture of methanol, water and tetrahydrofuran (1:1:2) is added 0.38 g (15.9 mmol) of lithium hydroxide, and the mixture is heated at 60° C. for 18 hours. The mixture is then taken up in 100 ml of dichloromethane and 100 ml of water, and is then acidified by addition of aqueous 1N sulfuric acid. The organic phase is separated out and dried over sodium sulfate, and the solvent is evaporated off under reduced pressure to give a yellow solid, which is purified by chromatography on a column of 80 g of silica gel, eluting with a mixture of 2% methanol in dichloromethane, to give 3.35 g of 2-(tert-butyloxycarbonyl)-6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid in the form of a white powder after triturating in acetonitrile, filtering off and drying.

reactant | 2-tert-butyl 8-methyl 6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 13.2 mmol, 5.50 g | ClC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)OC)C2=CC(=CC=C2)C#N | C21H22ClN3O4
reactant | methanol | CO | CH4O
reactant | lithium hydroxide | 15.9 mmol, 0.38 g | [OH-].[Li+]
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(tert-butyloxycarbonyl)-6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid | 3.35 g | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C(=C(C2C(=O)O)C2=CC(=CC=C2)C#N)Cl | C20H20ClN3O4
